US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol (Compound No. 3-1)
A solution of 2.2 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8) and 2.6 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3) in 200 ml of benzene was heated under reflux for about 2 hours, whilst the water being formed during the reaction was continuously removed. At the end of this time, the reaction mixture was freed from the benzene used as solvent by distillation under reduced pressure, and the resulting residue was dissolved in 150 ml of absolute methanol. 1 g of sodium borohydride was added to this solution, whilst ice-cooling, and the resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was then mixed with ethyl acetate and with a saturated aqueous solution of sodium chloride. The organic layer was separated and was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 40:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the eluent, to give 2.3 g of the title compound having an Rf=0.44 (thin layer chromatography over silica gel, using a 40:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the developing solvent).

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 2.2 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 2.6 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 2.3 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C20H24ClNO4
